US04166184
N,N'-Dibenzoyl lysine (140.4 g, 0.36 mol) dissolved in dioxan (350 ml) was added over 45 min to dicyclohexylcarbodiimide (88.0 g, 0.43 mol) in dioxan (193 ml). After stirring for 2 hours the mixture was set aside overnight, filtered from dicyclohexylurea (88.1 g), concentrated to half volume and added to H2O. The precipitate was collected and recrystallised from methylal to give 4-(4-benzamidobutyl)-2-phenyl-5-oxazolone (104 g, 86%) m.p. 118°-122°.

reactant | N,N'-Dibenzoyl lysine | 0.36 mol, 140.4 g | C(C1=CC=CC=C1)(=O)N[C@@H](CCCCNC(C1=CC=CC=C1)=O)C(=O)O | C20H22N2O4
reactant | dicyclohexylcarbodiimide | 0.43 mol, 88.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxan | 350 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 193 ml | O1CCOCC1 | C4H8O2
product | 4-(4-benzamidobutyl)-2-phenyl-5-oxazolone | 104 g, 86% | C(C1=CC=CC=C1)(=O)NCCCCC1=NC(OC1=O)C1=CC=CC=C1 | C20H20N2O3
